US08258140B2
Preparation of methyl 4-[4-[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]butanoate
Obtained in 63% yield by an analogous method to Example 19, preparation of starting materials, starting from 4-[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenol and methyl 4-bromobutanoate.

reactant | 4-[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenol | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)C2=CC=C(C=C2)O)(F)F | C17H16F3N5O
reactant | methyl 4-bromobutanoate | BrCCCC(=O)OC | C5H9BrO2
product | methyl 4-[4-[1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenoxy]butanoate | 63% yield | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)C2=CC=C(OCCCC(=O)OC)C=C2)(F)F | C22H24F3N5O3
